US08357694B2
(S)-6-(3,4-dichlorophenyl)-N-(3-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine and triethylamine as described in general procedure 6 to afford the desired product as hydrochloride salt. M.p.=220-225° C. 1H NMR (DMSO) 400 MHz δ 12.25 (bs, 1H), 11.70 (bs, 1H), 9.67 (s, 1H), 8.34-8.30 (m, 2H), 7.79 (s, 1H), 7.67 (d, J=9.6 Hz, 1H), 7.58 (t, J=7.6 Hz, 1H), 7.52-7.41 (m, 3H), 7.28 (t, J=8.0 Hz, 1H), 7.10 (d, J=7.6 Hz, 1H), 7.03-6.99 (m, 1H), 6.89 (d, J=8.0 Hz, 1H), 4.46 (t, J=6.4 Hz, 1H), 3.90-3.68 (m, 6H), 3.68-3.32 (m, 8H), 3.28 (s, 3H), 3.18-3.12 (m, 2H), 3.11-3.05 (m, 2H). LCMS: 588 m/e [M+H]. Calc. for C33H35Cl2N5.2.60 Hydrochloric acid.1.42 Water.0.03 Ethyl Acetate: C, 55.90; H, 5.76; N, 9.84. Found C, 55.91; H, 5.76; N, 9.84.

reactant | (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine | COCCN1CCN(CC1)CCN | C9H21N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(3,4-dichlorophenyl)-N-(3-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC(=CC=C2)CCN2CCN(CC2)CCOC | InChI=1S/C33H35Cl2N5O.ClH/c1-41-18-17-40-15-13-39(14-16-40)12-11-23-5-4-6-26(19-23)37-33-36-22-25-20-29(24-9-10-30(34)31(35)21-24)27-7-2-3-8-28(27)32(25)38-33;/h2-10,19,21-22,29H,11-18,20H2,1H3,(H,36,37,38);1H/t29-;/m0./s1
